Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
flu and VT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with recent evaluation for 
shortness of breath with exercise and ventricular ectopy and 
minimal other PMH who presenting with influenza and NSVT. He 
initially had nasal congestion, cough, fever/chills starting 6d 
PTA, symptoms acutely worsening on the 3d PTA with dyspnea, 
lightheadedness when walking around that did not feel similar to 
his prior positional lightheadedness, decreased intake/UOP, 
myalgias, and one ___ episode of palpitations that prompted him 
to go to the ___ ___. There he was 
found to have influenza and ventricular bigeminy/tachycardia.

He was then transferred to ___.

In ___, initial vitals were:
Temp: 98.7 HR: 114 BP: 122/73 Resp: 22 O(2)Sat: 100 Normal
Troponin <0.01
Cr 1.46

Physical Exam notable for: diffuse ronchi with some expiratory 
wheezing, tachypneic but speaking full sentences

EKG sinus @ 97, NA/NI, occasional PVC

CXR with no PNA

Patient received 2 nebs with significant improvement in 
symptoms, however was noted to have ___ VT with HR 190, BP 
stable, associated with dizziness but no CP or syncope. Symptoms 
resolved with rest.

Plan was for admission and echo, however, the hospitalist did 
not feel comfortable given the patient's arrhythmia, therefore 
patient was transferred to ___ ___.

In the ___ initial vitals were: T 99.1, HR 82, BP 115/53, RR 14, 
O2 94% RA. 

An EKG showed normal sinus rhythm (QTc 413/415). 

CXR was repeated, again with no acute process.

Labs showed negative Troponin, Cr 1.3 on unknown baseline, no 
significant electrolyte abnormalities.

Patient was given oseltamivir as well as his home buproprion and 
admitted for further workup.

On the floor, patient reports his breathing is feeling much 
better than yesterday, and he has not had any further 
palpitations, chest pain, palpitations, lightheadedness. Reports 
1 loose stool today. 

Of note, he was seen by cardiologist Dr. ___ on ___ for 
orthostatic hypotension and had outpatient holter monitor which 
showed moderate load of premature ventricular complexes as well 
as atrial ectopy (___) after an ETT ___ showed frequent PVCs, 
ventricular couplets, ventricular triplets (all asymptomatic). 
ECHO (___) was unremarkable with LVEF 55%-60%. Given his 
normal EF, normal QT, and lack of symptoms, no further workup 
was deemed necessary.

REVIEW OF SYSTEMS:  
+ per HPI
Negative for chest pain, dyspnea, PND, orthopnea, ankle edema, 
current palpitations, syncope, presyncope.

No history of stroke, DVT, PE, bleeding, change in bowel habits, 
bloody/black stools.

All of the other review of systems were negative.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Dyslipidemia: on Crestor
2. CARDIAC HISTORY  
- Nonsustained ventricular tachycardia, asymptomatic.
- PVCs, symptomatic.
- Positional lightheadedness.
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
- Arthritis
- Orthostatic Hypotension
- Erectile Dysfunction
- BPH
- Depression
- Basal Cell Carcinoma
- Genital warts on topical imiquimod cream
- Tubular Adenoma of the colon
- OSA on CPAP
 
Social History:
___
Family History:
No family history of early MI, cardiomyopathies, or sudden 
cardiac death. Father and two paternal uncles have had AAAs that 
have ruptured. Mother with HLD, ___. Brother with ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 98.2 BP 127/80 HR 62 RR 16 O2 SAT 100 RA  
GENERAL: WDWN ___ in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma. MMM  
NECK: Supple with no JVD  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Scattered ronchi, no 
crackles, wheezes.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAMINATION:  
VS: T 97.4 BP 115-134/70s-80s HR ___ RR ___ O2 SAT 95-100 
RA, wt 118.7  
GENERAL: WDWN ___ in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma. MMM  
NECK: Supple with no JVD  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
unlabored, no accessory muscle use. No ronchi, crackles, 
wheezes.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:
----------------
___ 07:50AM BLOOD WBC-4.3 RBC-4.80 Hgb-15.0 Hct-44.0 MCV-92 
MCH-31.3 MCHC-34.1 RDW-12.8 RDWSD-43.0 Plt ___
___ 03:05AM BLOOD Glucose-115* UreaN-18 Creat-1.3* Na-134 
K-4.0 Cl-99 HCO3-23 AnGap-16
___ 03:05AM BLOOD cTropnT-<0.01
___ 03:05AM BLOOD Calcium-8.2* Phos-4.2 Mg-1.8

DISCHARGE LABS:
-----------------
___ 07:50AM BLOOD WBC-4.3 RBC-4.80 Hgb-15.0 Hct-44.0 MCV-92 
MCH-31.3 MCHC-34.1 RDW-12.8 RDWSD-43.0 Plt ___
___ 07:50AM BLOOD Glucose-94 UreaN-16 Creat-1.1 Na-136 
K-4.2 Cl-100 HCO3-30 AnGap-10
___ 07:50AM BLOOD Calcium-8.4 Phos-3.8 Mg-2.4

MICROBIOLOGY: NONE

IMAGING:
---------
CXR ___
IMPRESSION: 
No acute cardiopulmonary abnormalities.
 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with PMH including 
asymptomatic ventricular ectopy, orthostatic hypotension, OSA, 
dyslipidemia, presenting with influenza, transferred to ___ 
for NSVT. 

# Idiopathic ventricular tachycardia/ventricular ectopy 
exacerbated by albuterol:
Patient transferred from ___ after having ___ run of NSVT 
with HR 190 after receiving 2 duonebs, associated with 
dizziness, resolved without intervention. Recent holter from 
___ showed very large amount (12%) of ventricular 
ectopy (predominantly monomorphic VPBs, couplets, short runs of 
NSVT). No further workup was done at that time given his lack of 
symptoms and other testing was negative. Patient reports first 
episode of palpitations during his acute illness prior to 
admission. He was ruled out for MI, remained chest pain free, 
and was monitored on telemetry for 24 hours without further 
episodes of NSVT.

Focused cardiac ultrasound performed at the bedside showed 
frequent ventricular ectopy, overall low normal LV systolic 
function. Images with unchanged global LV systolic function 
compared to OSH TTE ___. Consider outpatient cardiac MRI to 
rule out arrhythmogenic focus. He is hesitant to take a 
beta-blocker or CCB because of orthostatic symptoms. 
Antiarrhythmic drug therapy or VPC ablation could be considered 
in the future.

# Influenza
Started on Tamiflu prior to admission, continued on discharge. 
Patient reported improvement in his breathing, cough, and 
fatigue with Tamiflu. Started benzonatate and guaifenesin for 
cough.

# Diarrhea
Patient had diarrhea on HD1, thought likely secondary to 
Tamiflu. Received IVF prior to discharge. Patient was instructed 
to hydrate aggressively and present to primary care office day 
after discharge for evaluation of electrolytes.

# Positional lightheadedness 
Previously diagnosed with positional lightheadedness, treated 
successfully with increasing water intake and changing positions 
slowly. Felt less lightheaded after increasing oral intake.

# ___:
Patient has no history of CKD, admission Cr 1.3 (1.46 at 
___ likely in the setting of decreased PO intake. 
Creatinine improved to 1.1 on discharge.

# Hyperglycemia: 
Blood glucose on admission labs noted to be mildly elevated, 
115. No previous diagnosis of diabetes with Hb A1c 5.1 ___. 
___ benefit from reevaluation in outpatient setting.

# OSA: Contineud CPAP
# Depression: Continue home Bupropion 450 mg daily
# BPH: not on any medication
# HTN: Patient denies hx HTN, never treated, however this is 
noted in his records. Blood pressure ranged from 
110s-130s/70s-80s during his hospitalization.

TRANSITIONAL ISSUES:
- Consider cardiac MRI to rule out arrhythmogenic focus. 
- Discharged with Tamiflu (last day ___ 
- Please check BMP panel ___ (including magnesium) to check 
for electrolyte derangement given patient's diarrhea.

# CODE: Full (confirmed)
# CONTACT: HCP: wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 450 mg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO QPM 
3. Aspirin 325 mg PO DAILY:PRN takes "when he remembers" 
4. tadalafil unknown  oral PRN 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
2.  GuaiFENesin ___ mL PO Q4H:PRN cough 
RX *guaifenesin 1,200 mg 1 tab by mouth BID:PRN Disp #*20 Tablet 
Refills:*0 
3.  OSELTAMivir 75 mg PO Q12H 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*7 
Capsule Refills:*0 
4.  Aspirin 81 mg PO DAILY:PRN primary prevention 
if you take a daily aspirin, would recommend 81 mg instead of 
325 mg.  
5.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
6.  Rosuvastatin Calcium 20 mg PO QPM  
7.  tadalafil 10 mg oral PRN erectile dysfunction  
8.Outpatient Lab Work
Chem-10 

ICD-10 R19.7 Diarrhea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- idiopathic ventricular tachycardia / ectopy exacerbated by 
inhaled albuterol
- influenza 
- ___
- positional lightheadedness
- diarrhea likely ___ tamiflu
- OSA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were sent to the hospital from urgent care because you had 
an abnormal heart rhythm and you had the flu. 

You were sent from ___ in ___ because of a short 
episode of ventricular tachycardia noted on the monitor.

You were monitored further at ___ in ___ and had no further 
episodes of ventricular tachycardia or any other heart rhythms 
that required immediate treatment.

You should expect to hear from Dr. ___ about a 
followup appointment which will be prior to your appointment in 
___ (listed below). 

Continue to drink an adequate amount of water to avoid dizziness 
and lightheadedness and take your medications as below. You can 
return to work when you have 24 hours without a fever.

***Very important:  Please go to your primary care doctor's 
office and have your electrolytes checked tomorrow.***

See below for your followup appointments.

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___